US07081140B2
1.1 Preparation of (4-nitrophenyl)(2-(imidazol-5-yl)-ethyl)amine
100 ml of DMSO were introduced into a 500 ml three-necked flask and treated with 30.9 g of triethylamine, 18.4 g of histamine dihydrochloride and 14.4 g of 1-fluoro-4-nitrobenzene. The mixture was stirred at 80° C. for 10 h, treated with 20 ml of water and stirred at 80° C. for a further 3 h. Following this, the mixture was allowed to cool to room temperature and poured onto 1 l of ice. The resulting precipitate was filtered off with suction and dried in vacuo at 50° C., 20.8 g of crude product being obtained.

reactant | DMSO | 100 ml | CS(=O)C | C2H6OS
reactant | triethylamine | 30.9 g | C(C)N(CC)CC | C6H15N
reactant | histamine dihydrochloride | 18.4 g | Cl.Cl.NCCC1=CNC=N1
reactant | 1-fluoro-4-nitrobenzene | 14.4 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | water | 20 ml | O | H2O
product | (4-nitrophenyl)(2-(imidazol-5-yl)-ethyl)amine | 20.8 g | [N+](=O)([O-])C1=CC=C(C=C1)NCCC1=CN=CN1 | C11H12N4O2
